US07563800B2
3-tert-Butoxycarbonyloxy-6-(2,4-difluoro-phenoxy)-pyrazolo[3,4-d]pyrimidine-1-carboxylic acid tert-butyl ester was dissolved in a solution of NH3 in methanol (6 mL, 2 M) and stirred at room for 12 hours. The mixture was concentrated under reduced pressure to give 190 mg of 6-(2,4-difluoro-phenoxy)-3-hydroxy-pyrazolo[3,4-d]pyrimidine-1-carboxylic acid tert-butyl ester as a white solid residue that was used without purification in the next step.

reactant | 3-tert-Butoxycarbonyloxy-6-(2,4-difluoro-phenoxy)-pyrazolo[3,4-d]pyrimidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1N=C(C=2C1=NC(=NC2)OC2=C(C=C(C=C2)F)F)OC(=O)OC(C)(C)C | C21H22F2N4O6
solvent | NH3 | N | H3N
solvent | methanol | 2 M, 6 mL | CO | CH4O
product | 6-(2,4-difluoro-phenoxy)-3-hydroxy-pyrazolo[3,4-d]pyrimidine-1-carboxylic acid tert-butyl ester | 190 mg | C(C)(C)(C)OC(=O)N1N=C(C=2C1=NC(=NC2)OC2=C(C=C(C=C2)F)F)O | C16H14F2N4O4
